### PR TITLE
Interval lemmas

### PR DESCRIPTION
**Pull request by proux01**
##### Motivation for this change

After #872 #873 and #874 and along with #887 and #889 this completes the backporting of the mathcomp_extra.v file of Analysis (but three lemmas that should go in finmap).

Note: this is based on #889 to be merged first.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [x] added corresponding documentation in the headers

### CODE REVIEW

File: mathcomp/algebra/interval.v [hunk 1]
```diff
@@ -229,6 +235,60 @@ Lemma gt_pinfty b : (+oo < b) = false. Proof. by []. Qed.
...
+Let BInfty_gtF a : a < BInfty T true = false.
+Proof. by case: a => [[] a|[]]. Qed.
+Let BInfty_BInfty_ltE : BInfty T true < BInfty T false. Proof. by []. Qed.
+
+Definition bnd_simp := (BLeft_ltE, BRight_leE,
+  BRight_BLeft_leE, BLeft_BRight_ltE,
+  BRight_BSide_ltE, BLeft_BSide_leE, BSide_ltE, BSide_leE,
+  BInfty_leE, BInfty_geE, BInfty_BInfty_ltE,
+  BInfty_le_eqE, BInfty_ge_eqE, BInfty_ltE, BInfty_gtE, BInfty_ltF, BInfty_gtF,
+  @lexx _ T, @ltxx _ T, @eqxx T).
```
Comment (pi8027) [inline mathcomp/algebra/interval.v:290]: As discussed in the MathComp meeting, I thought we should put some parentheses here (to control the ordering of applying rewrite rules), although this does not seem to be a blocking issue. https://github.com/math-comp/math-comp/blob/master/mathcomp/fingroup/fingroup.v#L640-L641 https://github.com/math-comp/math-comp/blob/master/mathcomp/ssreflect/ssrnat.v#L1849

**Comment by gares** [comment]
@affeldt-aist I merged the other PR and rebased this one. I think you should merge the CI is green (coq-master is broken, the others should work)
